US08420629B2
Step 1. 1-(methoxymethyl)-3-methylenecyclobutanecarbonitrile
To a mixture of 3-methylenecyclobutanecarbonitrile (1.00 g, 0.0107 mol) in tetrahydrofuran (40 mL, 0.5 mol) was added 2.00 M of lithium diisopropylamide in tetrahydrofuran (6.44 mL) at −78° C. After stirred at −78° C. for 30 min, to the resulting mixture was added chloromethyl methyl ether (1.02 mL, 0.0134 mol). The reaction was stirred at −78° C. for 30 min, then allowed to warm up to rt, quenched with ammonium chloride, then extracted with ether. The combined organic layers were washed with water, brine, dried, and evaporated to dryness. The crude residue was used directly in next step.

reactant | 3-methylenecyclobutanecarbonitrile | 0.0107 mol, 1.00 g | C=C1CC(C1)C#N | C6H7N
reactant | lithium diisopropylamide | 2.00 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | chloromethyl methyl ether | 0.0134 mol, 1.02 mL | COCCl | C2H5ClO
solvent | tetrahydrofuran | 6.44 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mol, 40 mL | O1CCCC1 | C4H8O
product | 1-(methoxymethyl)-3-methylenecyclobutanecarbonitrile | COCC1(CC(C1)=C)C#N | C8H11NO
